US07638521B2
5 cm3 of thionyl chloride are added to 0.5 g (1.4 mmol) of 3-carboxy-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole under an argon atmosphere. After stirring at reflux for 2 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), successively triturated three times with 30 cm3 of dichloromethane and then concentrated to dryness under reduced pressure (2.7 kPa) to give 0.58 g of 3-chlorocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride in the form of a yellow powder which is used directly in the following step.

reactant | thionyl chloride | 5 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 3-carboxy-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole | 1.4 mmol, 0.5 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)C(F)(F)F | C19H11F3N2O2
product | 3-chlorocarbonyl-1-(7-(trifluoromethyl)quinol-4-yl)-1H-indole hydrochloride | 0.58 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)C(F)(F)F | InChI=1S/C19H10ClF3N2O.ClH/c20-18(26)14-10-25(16-4-2-1-3-12(14)16)17-7-8-24-15-9-11(19(21,22)23)5-6-13(15)17;/h1-10H;1H
